US06458798B1
4-Chloro-5-phenethylpyrimidine-2-ylamine
A mixture of 2-amino-5-phenethylpyrimidine-4-ol (600 mg, 2.79 mmol) and phosphorous oxychloride (5 ml) was kept to warm at 90° C. for 6 hours. The reaction mixture was condensed in vacuo. Ice-water was added to the residue and an aqueous ammonia was cautiously added thereto. The solution was extracted with chloroform. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (chloroform: ethyl acetate=8:2) to give the object compound (265 mg, 40.7%).

reactant | 2-amino-5-phenethylpyrimidine-4-ol | 2.79 mmol, 600 mg | NC1=NC=C(C(=N1)O)CCC1=CC=CC=C1 | C12H13N3O
reactant | phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
product | 4-Chloro-5-phenethylpyrimidine-2-ylamine | 265 mg, 40.7% | ClC1=NC(=NC=C1CCC1=CC=CC=C1)N | C12H12ClN3
